US08034895B2
Synthesis of 2-[(5-nitro-thiophen-2-ylmethylene)-amino]-5-[(thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester (R1═H; R2═NO2)
5-Nitrothiophene-2-carbaldehyde (9 mg) was mixed in toluene under nitrogen at 0° C. with DABCO (7 mg), TiCl4 in solution in toluene (59 μL) and 2,5-bis-[(thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester (12 mg). The mixture was refluxed for six hours, concentrated and the product isolated as a red powder after purification by flash chromatography. M.p.: 220°-222° C. 1H-NMR (300 MHz, [D] acetone): δ=8.81 (s, 1H), 8.79 (s, 1H), 8.10 (d, 1H, 3.2 Hz), 7.91 (d, 1H, 3J=4.1 Hz), 7.81 (d, 1H, 2.9 Hz), 7.78 (d, 1H, 3J=4.6 Hz), 7.29 (dd, 1H, 2.7 Hz and 3.8 Hz), 4.38 (q, 2H, 3J=5.3 Hz), 4.32 (q, 2H, 3J=5.3 Hz), 1.41 (t, 3H, 3J=5.3 Hz), 1.36 (t, 3H, 3J=5.3 Hz). 13C-NMR (300 MHz, [D] acetone): δ=176.9, 174.2, 169.1, 166.5, 155.1, 151.7, 146.6, 142.2, 140.9, 136.1, 135.9, 134.0, 132.7, 130.0, 129.0, 127.5, 61.5, 61.3, 14.2, 14.0.

reactant | 5-Nitrothiophene-2-carbaldehyde | 9 mg | [N+](=O)([O-])C1=CC=C(S1)C=O | C5H3NO3S
reactant | DABCO | 7 mg | C1CN2CCN1CC2 | C6H12N2
reactant | 2,5-bis-[(thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester | 12 mg | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N=CC=1SC=CC1)N=CC=1SC=CC1 | C20H18N2O4S3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 59 μL | C1(=CC=CC=C1)C | C7H8
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
product | 2-[(5-nitro-thiophen-2-ylmethylene)-amino]-5-[(thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N=CC=1SC=CC1)N=CC=1SC(=CC1)[N+](=O)[O-] | C20H17N3O6S3
